US05266565
2-Hydroxy-4-[2-(dimethylamino)ethoxy]benzaldehyde
A mixture containing 0.8 mole of 2,4-dihydroxy-benzaldehyde, 0.8 mole of 2-chloro-1-dimethylaminoethane and 1.6 mole of potassium carbonate in 1200 ml of anhydrous methyl ethyl ketone is refluxed for 1 hour 30 minutes with stirring.

reactant | 2,4-dihydroxy-benzaldehyde | 0.8 mole | OC1=C(C=O)C=CC(=C1)O | C7H6O3
reactant | 2-chloro-1-dimethylaminoethane | 0.8 mole | ClCCN(C)C | C4H10ClN
reactant | potassium carbonate | 1.6 mole | C([O-])([O-])=O.[K+].[K+]
solvent | methyl ethyl ketone | 1200 ml | C(C)C(=O)C | C4H8O
product | 2-Hydroxy-4-[2-(dimethylamino)ethoxy]benzaldehyde | OC1=C(C=O)C=CC(=C1)OCCN(C)C | C11H15NO3
